US08748429B2
(R,E)-N—((S)-2-(2,3-difluorophenyl)hex-5-enylidene)-2-methylpropane-2-sulfinamide
In a 500 mL round-bottomed flask was dissolved (S)-2-(2,3-difluorophenyl)hex-5-enal (3.61 g, 17.2 mmol) (freshly azeotroped with dry benzene) and (R)-2-methylpropane-2-sulfinamide (2.08 g, 17.2 mmol) in tetrahydrofuran (100 mL) to give a yellow solution. Titanium(IV) ethoxide (36.0 mL, 34.3 mmol) was added dropwise, and the mixture was stirred at rt under nitrogen for 6 h. It was transferred to a stirred solution of brine (90 mL) and a white solid was formed. This was filtered through a plug of celite and washed with ethyl acetate. The eluent was concentrated to give a tan oil. The residue was purified by flash column chromatography up to 40% ethyl acetate/hexane afforded the desired product (3.94 g, 73% for 2 steps) as a light yellow oil: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.09 (d, J=4.52 Hz, 1H) 7.02-7.14 (m, 2H) 6.97 (d, J=8.28 Hz, 1H) 5.68-5.87 (m, 1H) 5.02 (d, J=13.05 Hz, 2H) 4.07-4.18 (m, 1H) 2.19 (dt, J=13.30, 6.65 Hz, 1H) 2.05-2.13 (m, 2H) 1.90-2.03 (m, 1H) 1.17 (s, 9H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −137.55 (br. s., 1F) −142.03 (br. s., 1F); 13C NMR (101 MHz, CHLOROFORM-d) δ ppm 167.97 (s, 1C) 151.70-149.09 (m, 1C) 149.93-147.27 (m, 1C) 136.71 (d, J=9.25 Hz, 1C) 128.43 (d, J=9.25 Hz, I C) 122.99-124.42 (m, 1C) 115.88-115.68 (m, 1C) 115.37 (m, 1C) 109.63 (s, 1C) 56.77 (s, 1C) 43.94 (d, J=12.33 Hz, 1C) 30.83 (s, 1C) 30.40 (s, 1C) 21.96 (d, J=5.39 Hz, 3C).

reactant | (S)-2-(2,3-difluorophenyl)hex-5-enal | 17.2 mmol, 3.61 g | FC1=C(C=CC=C1F)[C@@H](C=O)CCC=C | C12H12F2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | (R)-2-methylpropane-2-sulfinamide | 17.2 mmol, 2.08 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | brine | 90 mL | [Cl-].[Na+].O
catalyst | Titanium(IV) ethoxide | 34.3 mmol, 36.0 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (R,E)-N—((S)-2-(2,3-difluorophenyl)hex-5-enylidene)-2-methylpropane-2-sulfinamide | 3.94 g, 73% | FC1=C(C=CC=C1F)[C@@H](\C=N\[S@](=O)C(C)(C)C)CCC=C | C16H21F2NOS
